US05852011
4-[N-Ethyl,N-(2-hydroxyethyl)amino]nitrobenzene
In 30 ml of DMSO, 5.0 g (35.4 mmol) of 4-fluoronitrobenzene and 6 g (67.3 mmol) of 2-(ethylamino)ethanol were dissolved. The resultant solution was stirred under heat at 140° C. for 4 hours, followed by extraction with ethyl acetate. The solvent was distilled out under reduced pressure, followed by washing with ethyl acetate, whereby 6.3 g of yellow powder were obtained (yield: 85%).

reactant | 4-fluoronitrobenzene | 35.4 mmol, 5.0 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 2-(ethylamino)ethanol | 67.3 mmol, 6 g | C(C)NCCO | C4H11NO
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
product | 4-[N-Ethyl,N-(2-hydroxyethyl)amino]nitrobenzene | 6.3 g, yield: 85% | C(C)N(CCO)C1=CC=C(C=C1)[N+](=O)[O-] | C10H14N2O3
